US08466282B2
Ethyl 4-bromo-1-(4-methoxybutyl)-1H-imidazole-2-carboxylate
Ethyl 1-(4-methoxybutyl)-1H-imidazole-2-carboxylate (2.18 g) was dissolved in acetonitrile (30 ml), N-bromosuccinimide (1.71 g) was added and the mixture was stirred at 60° C. for 14 hr. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-70:30) was concentrated under reduced pressure to give the object product (689 mg).

reactant | Ethyl 1-(4-methoxybutyl)-1H-imidazole-2-carboxylate | 2.18 g | COCCCCN1C(=NC=C1)C(=O)OCC | C11H18N2O3
reactant | N-bromosuccinimide | 1.71 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | Ethyl 4-bromo-1-(4-methoxybutyl)-1H-imidazole-2-carboxylate | 689 mg | BrC=1N=C(N(C1)CCCCOC)C(=O)OCC | C11H17BrN2O3
